US08247612B2
To a solution of 1.0 g of 4,4,4-trifluoro-3-methoxy-butyl p-toluenesulfonate and 0.8 g of methyl (3,3,3-trifluoropropylsulfonyl)acetate in 50 ml of dimethyl sulfoxide was added 0.4 g of potassium carbonate at room temperature, and the stirred at room temperature for 4 days. The reaction mixture was heated to 60° C., stirred at the same temperature for 20 hours, and then allowed to stand to cool to nearly room temperature. To the reaction mixture was added 10% hydrochloric acid, and then extracted with ethyl acetate. The organic layer was washed with a saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The obtained residue was subjected to silica gel chromatography to obtain 0.62 g of methyl 6,6,6-trifluoro-5-methoxy-2-(3,3,3-trifluoropropylsulfonyl)hexanoate (hereinafter referred to as the present compound (24)).

reactant | 4,4,4-trifluoro-3-methoxy-butyl p-toluenesulfonate | 1.0 g | C1(=CC=C(C=C1)S(=O)(=O)OCCC(C(F)(F)F)OC)C | C12H15F3O4S
reactant | methyl (3,3,3-trifluoropropylsulfonyl)acetate | 0.8 g | FC(CCS(=O)(=O)CC(=O)OC)(F)F | C6H9F3O4S
reactant | potassium carbonate | 0.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethyl sulfoxide | 50 ml | CS(=O)C | C2H6OS
product | methyl 6,6,6-trifluoro-5-methoxy-2-(3,3,3-trifluoropropylsulfonyl)hexanoate | 0.62 g | FC(C(CCC(C(=O)OC)S(=O)(=O)CCC(F)(F)F)OC)(F)F | C11H16F6O5S
